US07939528B2
A 500 mL round bottom flask containing 2-{4-[(3-methyl-4-nitrophenyl)oxy]phenyl}-1,3-dioxolane (1.89 g, 6.27 mmol) in 60 mL ethylacetate was purged with nitrogen gas and treated with 10% palladium on carbon (650 mg, 0.63 mmol). A balloon with H2 gas was attached and gas was allowed to bubble through the solution while allowing gas to escape the flask via needle. The needle was removed, and the reaction stirred under H2 atmosphere for 2 days. The reaction was filtered through Celite, concentrated and purified via silica gel column chromatography (0% to 100% ethylacetate/hexane gradient) to provide 1.24 g 4-{[4-(1,3-dioxolan-2-yl)phenyl]oxy}-2-methylaniline.

reactant | 2-{4-[(3-methyl-4-nitrophenyl)oxy]phenyl}-1,3-dioxolane | 6.27 mmol, 1.89 g | CC=1C=C(C=CC1[N+](=O)[O-])OC1=CC=C(C=C1)C1OCCO1 | C16H15NO5
solvent | ethylacetate | 60 mL | C(C)OC(C)=O | C4H8O2
catalyst | palladium on carbon | 0.63 mmol, 650 mg | [Pd] | Pd
product | 4-{[4-(1,3-dioxolan-2-yl)phenyl]oxy}-2-methylaniline | 1.24 g | O1C(OCC1)C1=CC=C(C=C1)OC1=CC(=C(N)C=C1)C | C16H17NO3
